US05955548
Synthesis of 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)-2-propenenitrile
To a solution of malononitrile (0.33 g, 5.00 mmol) in DCM at 0° C. first 3,5-bis(trifluoromethyl)phenylisothiocyanate (1.41 g, 5.20 mmol) and then triethylamine (1.0 mL) were added. The mixture was stirred at room temperature for 1 h 45 min and then DCM (5 mL), 3-methylbutylamine (1.0 mL, 8.60 mmol), magnesium sulfate (0.57 g) and mercury(II) oxide (2.54 g, 11.7 mmol) were added. The resulting mixture was stirred at room temperature for 17 h, whereby it turned black. This mixture was then filtrated (Celite), diluted with DCM (60 mL), washed with an ice-cold mixture of water (100 mL) and conc. HCl (2.0 mL), with brine (3×50 mL), dried (magnesium sulfate) and concentrated. The residue was purified by column chromatography (50 g silica gel, heptane/ethyl acetate gradient), to yield 1.22 g (63%) of the title compound as a foam. This foam could be crystallized from toluene/heptane, yielding 1.08 g of almost colourless crystals, mp. 158-159° C. 1H NMR (300 MHz, DMSO-d6): δ=0.87 (d, J=7 Hz, 6H), 1.45 (q, J=7 Hz, 2H), 1.60 (nonett, J=7 Hz, 1H), 3.31 (m, 2H), 7.72 (s, 2H), 7.78 (s, 1H), 8.22 (s, br, 1H), 9.79 (s, 1H); 13C NMR (75 MHz, DMSO-d6): δ=22.04, 24.99, 36.85, 37.14, 59.66, 116.52, 117.52, 121.21, 123.02 (q, J=275 Hz), 131.02 (q, J=33 Hz), 141,35, 161.27. Anal. Calcd. for C17H16F6N4 (390.33): C, 52.31; H, 4.13; N, 14.35. Found: C, 52.80; H, 4.29; N, 13.83.

reactant | malononitrile | 5.00 mmol, 0.33 g | C(CC#N)#N | C3H2N2
reactant | 3,5-bis(trifluoromethyl)phenylisothiocyanate | 5.20 mmol, 1.41 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
reactant | 3-methylbutylamine | 8.60 mmol, 1.0 mL | CC(CCN)C | C5H13N
reactant | magnesium sulfate | 0.57 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | mercury(II) oxide | 11.7 mmol, 2.54 g | [Hg]=O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
product | 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)-2-propenenitrile | 1.22 g, 63% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)C#N)NCCC(C)C)(F)F | C17H16F6N4
